*****************************************************************
* NXP BUK7Y8R7-60E
*
* Polarity N-Channel
* Ratings 60V/8.700000E-003OHMS/86.7953315077413A
*
* Date Created Tue Feb 05 08:59:30 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y8R7-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 6000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00373394619191879 TC=0.00502269859762874,1.62289100340674E-05
RBD 9 4 0.00100850606287474 TC=0.00502269859762874,1.62289100340674E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.11528432930962e-09
RG 1 2 1.72575376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2205.43
+ -16	2204.12
+ -10	2199.47
+ -5	2177.92
+ -4	2132.78
+ -3	2040.56
+ -2	1728.58
+ -1	1352.66
+ -0.5	1064.82
+ -0.2	844.485
+ -0.1	838.843
+ 0	762.86734
+ 0.1	615.04904
+ 0.2	614.22572
+ 0.5	507.5058
+ 1	436.10248
+ 2	355.95552
+ 3	315.27824
+ 4	291.1856
+ 5	275.11088
+ 6	263.62316
+ 8	247.67596
+ 10	236.41468
+ 12	227.5486
+ 15	216.9622
+ 20	203.68352
+ 30	186.10696
+ 40	175.47448
+ 48	169.76708




.MODEL MINT NMOS(Vto=3.50728313678579 Kp=100 Nfs=580000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=4.06973666454221e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.17860152e-09 Tt=1.532e-08)

.ENDS

